US04305951
3-Ethyl-5-(2-hydroxy-styryl)-isoxazole
Using the method described in Example I, 6 g (0.02 mole) of diethyl (3-ethyl-isoxazol-5-yl)-methanephosphonate and 4.4 g (0.02 mole) of o-(1-methoxyethoxy)-benzaldehyde are reacted and the product is recrystallized from isopropanol. 1.7 g (32% of theory) of colorless crystals, of melting point 175°-176° C., are obtained.

reactant | diethyl (3-ethyl-isoxazol-5-yl)-methanephosphonate | 0.02 mole, 6 g | C(C)C1=NOC(=C1)CP(OCC)(=O)OCC | C10H18NO4P
reactant | o-(1-methoxyethoxy)-benzaldehyde | 0.02 mole, 4.4 g | COC(C)OC1=C(C=O)C=CC=C1 | C10H12O3
product | 3-Ethyl-5-(2-hydroxy-styryl)-isoxazole | C(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)O | C13H13NO2
